US08236824B2
3.1 2-(1H-Pyrazole-3-yl)-isoindole-1,3-dione (11.7 mmol) is added to a suspension of NaH (2 eq.) in DMF at 0° C. Benzylbromide (1 eq.) is added and the reaction is stirred 15 h at 50° C. The solvent is removed in vacuo. Hydrazine hydroxide (10 ml) and ethanol (20 ml) are added and the reaction is stirred 17 hours at 120° C. The precipitate is filtered and the solvent is removed in vacuo. The residue is suspended in dichloromethane and filtrated. The solvent of the filtrate is removed in vacuo. The remaining residue is purified via column chromatography (Ethyl acetate/methanol). 1-Benzyl-1H-pyrazole-3-ylamine is isolated as a yellow powder in a yield of 32%; HPLC (Method B): 2.45 min; LC-MS (Method B): 1.203 min, 174.15 (M+H+);

reactant | 2-(1H-Pyrazole-3-yl)-isoindole-1,3-dione | 11.7 mmol | N1N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C11H7N3O2
reactant | NaH | 2 eq. | [H-].[Na+]
reactant | Benzylbromide | 1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Benzyl-1H-pyrazole-3-ylamine | yield of 32% | C(C1=CC=CC=C1)N1N=C(C=C1)N | C10H11N3
